US07652051B2
Synthesis of 4-[(2,6-diaminopyrimidin-4-yl)oxy]benzohydrazide
Methyl 4-[(2,6-diaminopyrimidin-4-yl)oxy]benzoate (2.74 g, 10.52 mmol) was suspended in ca. 180 mL of anhydrous methanol and anhydrous hydrazine (1.021 g, 1.0 mL, 31.85 mmol, 3.03 eq) was added to this suspension. The reaction mixture was refluxed for 3 hours, then MeOH was very slowly distilled off till the total volume reached ca. 30 mL. This solution was allowed to stand at ambient temperature for 48 hrs. A white precipitate slowly crystallized out. It was collected, washed with 40 mL of EtOAc, 40 mL of anhydrous Et2O and dried in vacuo to give the title product as a fine white powder (2.02 g). Yield 73.7%.

reactant | Methyl 4-[(2,6-diaminopyrimidin-4-yl)oxy]benzoate | 10.52 mmol, 2.74 g | NC1=NC(=CC(=N1)OC1=CC=C(C(=O)OC)C=C1)N | C12H12N4O3
reactant | hydrazine | 31.85 mmol, 1.0 mL, 1.021 g, 3.03 eq | NN | H4N2
solvent | methanol | ca. 180 mL | CO | CH4O
product | 4-[(2,6-diaminopyrimidin-4-yl)oxy]benzohydrazide | 2.02 g, Yield 73.7% | NC1=NC(=CC(=N1)OC1=CC=C(C(=O)NN)C=C1)N | C11H12N6O2
